US06350771B1
30% Hydrogen peroxide solution (0.32 ml) was added to a solution of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylthio-1H-pyrazole-3-carboxaldehyde oxime (0.8 g) in trifluoroacetic acid at 20° C. The reaction solution was partitioned between water and dichloromethane and the organic layer dried (magnesium sulfate), evaporated and flash-chromatographed on silica gel, eluting with dichloromethane/ethyl acetate (3:1) to give 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (0.29 g), m.p. 210-214° C. Compound 30 and 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylsulfonyl-1H-pyrazole-3-carboxaldehyde oxime (0.2 g), m.p. 211-2120° C. Compound 31.

reactant | Hydrogen peroxide | 0.32 ml | OO | H2O2
reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylthio-1H-pyrazole-3-carboxaldehyde oxime | 0.8 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C)SC)C=NO | C13H10Cl2F3N3OS
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 0.29 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C)S(=O)C)C=NO | C13H10Cl2F3N3O2S
